US07132425B2
A solution of (5-bromomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester (prepared according to WO 02/070494, 1.00 g, 3.470 mmol) in N,N-dimethylformamide (6.9 mL) was treated with sodium cyanide (350.7 mg, 6.940 mmol). The reaction mixture was stirred at 40° C. for 1 h. The reaction was diluted with a saturated aqueous sodium chloride solution (100 mL) and then extracted with ethyl acetate (100 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 3/7 ethyl acetate/hexanes) afforded (5-cyanomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester (807.6 mg, 99%) as a light yellow solid: mp 162–164° C.; EI-HRMS m/e calcd for C11H14N4O2 (M+) 234.1117, found 234.1120.

reactant | (5-bromomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester | 3.470 mmol, 1.00 g | C(C)(C)(C)OC(NC1=NC=C(N=C1)CBr)=O | C10H14BrN3O2
reactant | sodium cyanide | 6.940 mmol, 350.7 mg | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 6.9 mL | CN(C=O)C | C3H7NO
solvent | sodium chloride | 100 mL | [Cl-].[Na+]
product | (5-cyanomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester | 807.6 mg, 99% | C(C)(C)(C)OC(NC1=NC=C(N=C1)CC#N)=O | C11H14N4O2
